US05153210
A solution of 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one 0.8 g) in ethanol, was added to a mixture of dimethylamine (0.28 ml of a 33% solution, in ethanol) and formaldehyde (0.175 ml of a 37% aq. solution) in ethanol:water (95:5), (50 ml), at room temperature and allowed to stand for 1h. The solvent was evaporated in vacuo, the residue was partitioned between ethyl acetate and water separated and the organic extracts dried (magnesium sulphate), filtered and evaporated to an oil which was chromatographed on silica. Elution with chloroform: methanol (95:5) gave 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-6-dimethylaminomethyl-4H-pyran-4-one (0.4 g) as a 49:51 mixture of diastereoisomers.

reactant | 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-4H-pyran-4-one | 0.8 g | ClC=1C=C(C(CNC(CC2=CC=C(OCC=3OC=C(C(C3)=O)O)C=C2)C)O)C=CC1 | C23H24ClNO5
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol water | 50 ml | C(C)O.O
product | 2-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxymethyl]-5-hydroxy-6-dimethylaminomethyl-4H-pyran-4-one | 0.4 g | ClC=1C=C(C(CNC(CC2=CC=C(OCC=3OC(=C(C(C3)=O)O)CN(C)C)C=C2)C)O)C=CC1 | C26H31ClN2O5
